US07071184B2
f. (3R,4R,7R)-4-Amino-7-methyl-1-(pyridine-2-sulfonyl)-azepan-3-ol
HCl in dioxane (4.0 M, 10 ml) was added to a stirred solution. [(3R,4R,7R)-3-Hydroxy-7-methyl-1-(pyridine-2-sulfonyl)-azepan-4-yl]-carbamic acid tert-butyl ester (0.6 g, 1.55 mmol) in MeOH (10 ml). The reaction mixture was stirred for 1 h at RT, then was diluted with toluene (20 ml), concentrated in vacuo by rotary evaporation and was used in the next reaction without further purification (0.5 g, quantitative): Electrospray mass spec: M+H+=286.2.

reactant | HCl | Cl | ClH
reactant | [(3R,4R,7R)-3-Hydroxy-7-methyl-1-(pyridine-2-sulfonyl)-azepan-4-yl]-carbamic acid tert-butyl ester | 1.55 mmol, 0.6 g | C(C)(C)(C)OC(N[C@H]1[C@@H](CN([C@@H](CC1)C)S(=O)(=O)C1=NC=CC=C1)O)=O | C17H27N3O5S
solvent | dioxane | 4.0 M, 10 ml | O1CCOCC1 | C4H8O2
solvent | MeOH | 10 ml | CO | CH4O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (3R,4R,7R)-4-Amino-7-methyl-1-(pyridine-2-sulfonyl)-azepan-3-ol | N[C@H]1[C@@H](CN([C@@H](CC1)C)S(=O)(=O)C1=NC=CC=C1)O | C12H19N3O3S
